US08349860B2
A mixture of 4-nitro-1-phenyl-1H-pyrazole (440 mg, 2.32 mmol) and SnCl2 dihydrate (2.18 g, 9.66 mmol) in EtOAc (15 mL) was stirred at 80 C for 3 h. Aqueous 1N NaOH was added to bring pH to 12. The mixture was filtered through celite. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by HPLC to give 1-phenyl-1H-pyrazol-4-amine as a solid (173 mg).

reactant | 4-nitro-1-phenyl-1H-pyrazole | 2.32 mmol, 440 mg | [N+](=O)([O-])C=1C=NN(C1)C1=CC=CC=C1 | C9H7N3O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 1-phenyl-1H-pyrazol-4-amine | 173 mg | C1(=CC=CC=C1)N1N=CC(=C1)N | C9H9N3
